US03963709
7-Cyanomethylsulfonylacetamido-3-(5-methyl-1,3,4-thiadiazol-2-ylthiometyl)-3-cephem-4-carboxylic acid
t-Butyl 7-amino-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylate (8.0 g, 20 mmol), cyanomethylsulfonylacetic acid (3.3 g, 20 mmol) and dicyclohexylcarbodiimide (4.1 g, 20 mmol) were reacted by the procedure of Example 5. The crude ester was chromatographed on silica gel using ethyl acetate as eluent. The purified t-butyl ester (6.2 g) was dissolved in hot acetonitrile (40 ml) and trifluoroacetic acid (40 ml) was added. The solution was allowed to stand 2.5 hours and then was added slowly to ether (100 ml) with stirring. The precipitated title compound was collected, triturated with ether and dried.

reactant | t-Butyl 7-amino-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylate | 20 mmol, 8.0 g | NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)OC(C)(C)C)C1=O | C15H20N4O3S3
reactant | cyanomethylsulfonylacetic acid | 20 mmol, 3.3 g | C(#N)CS(=O)(=O)CC(=O)O | C4H5NO4S
reactant | dicyclohexylcarbodiimide | 20 mmol, 4.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 7-Cyanomethylsulfonylacetamido-3-(5-methyl-1,3,4-thiadiazol-2-ylthiometyl)-3-cephem-4-carboxylic acid | C(#N)CS(=O)(=O)CC(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O | C15H15N5O6S4
